US04764525
A solution of 3.0 g (35.3 mmol) of anhydrous 5-aminotetrazole in 20 ml of dimethyl sulfoxide is added dropwise to a 15° to 20° C. slurry of 2.8 g (70.0 mmol) of 60% NaH (oil dispersion) in 75 ml of dimethyl sulfoxide under nitrogen atmosphere. The resulting mixture is stirred at 25° C. for 2.5 hours. A solution of 6.50 g (28.98 mmol) of methyl 4-methoxy-2-(1-methylethoxy)benzoate in 25 ml of dimethyl sulfoxide is added dropwise to the reaction and stirred at 25° C. for 18 hours. The reaction is poured onto 600 g of ice-water and the resulting aqueous solution is acidified with aqueous 10% HCl. The product is isolated by vacuum filtration and recrystallization from 95% ethanol gives 1.90 g (8.03 g theoretical, 24%) of the analytically pure 4-methoxy-2-(1-methylethoxy)-N-1H-tetrazol-5-ylbenzamide as fine, white needles having a melting point of 212° -213° C.

reactant | 5-aminotetrazole | 35.3 mmol, 3.0 g | NC1=NN=NN1 | CH3N5
reactant | NaH | 70.0 mmol, 2.8 g | [H-].[Na+]
reactant | methyl 4-methoxy-2-(1-methylethoxy)benzoate | 28.98 mmol, 6.50 g | COC1=CC(=C(C(=O)OC)C=C1)OC(C)C | C12H16O4
reactant | HCl | Cl | ClH
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | ethanol | C(C)O | C2H6O
product | 4-methoxy-2-(1-methylethoxy)-N-1H-tetrazol-5-ylbenzamide | COC1=CC(=C(C(=O)NC2=NN=NN2)C=C1)OC(C)C | C12H15N5O3
